### PR TITLE
[Merged by Bors] - feat: basic linear algebra lemmas about matrices

### PR DESCRIPTION
**Pull request by ocfnash**
These came up in the proof that the Geck Construction yields semisimple Lie algebras. I am splitting them into their own PR to simplify review.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matrix/Mul.lean [hunk 1]
```diff
@@ -411,6 +411,11 @@ theorem diagonal_mul_diagonal' [Fintype n] [DecidableEq n] (d₁ d₂ : n → α
     diagonal d₁ * diagonal d₂ = diagonal fun i => d₁ i * d₂ i :=
   diagonal_mul_diagonal _ _
 
+theorem commute_diagonal {α : Type*} [NonUnitalNonAssocCommRing α]
```
Comment (themathqueen) [inline Mathlib/Data/Matrix/Mul.lean]: you can probably turn that into a `NonUnitalNonAssocCommSemiring`

Comment (ocfnash) [reply Mathlib/Data/Matrix/Mul.lean]: Good point, done!

File: Mathlib/Data/Matrix/Block.lean [hunk 2]
```diff
@@ -216,6 +216,14 @@ theorem fromBlocks_multiply [Fintype l] [Fintype m] [NonUnitalNonAssocSemiring 
   rcases i with ⟨⟩ <;> rcases j with ⟨⟩ <;> simp only [fromBlocks, mul_apply, of_apply,
       Sum.elim_inr, Fintype.sum_sum_type, Sum.elim_inl, add_apply]
 
+theorem fromBlocks_pow [Semiring α] [Fintype n] [Fintype m] [DecidableEq n] [DecidableEq m]
+    (A : Matrix n n α) (D : Matrix m m α) (k : ℕ) :
+    (fromBlocks A 0 0 D) ^ k = fromBlocks (A ^ k) 0 0 (D ^ k) := by
```
Comment (j-loreaux) [inline Mathlib/Data/Matrix/Block.lean]: I might like this better:
```suggestion
theorem fromBlocks_diagonal_pow [Semiring α] [Fintype n] [Fintype m] [DecidableEq n] [DecidableEq m]
    (A : Matrix n n α) (D : Matrix m m α) (k : ℕ) :
    (fromBlocks A 0 0 D) ^ k = fromBlocks (A ^ k) 0 0 (D ^ k) := by
```
You could argue that there's nothing else that `fromBlocks_pow` could mean, to which I would reply: what about `from Blocks 1 B 0 1`? But I'm okay if you prefer to leave it as-is.

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean [hunk 3]
```diff
@@ -69,6 +69,50 @@ lemma hasEigenvalue_toLin'_diagonal_iff [NoZeroDivisors R] (d : n → R) {μ : R
 
 end NontrivialCommRing
 
+namespace Matrix
+
+variable [CommRing R] [IsDomain R] {d : n → R}
+
+@[simp]
+lemma maxGenEigenspace_diagonal_eq_bot_iff {μ : R} :
+    maxGenEigenspace (diagonal d).toLin' μ = ⊥ ↔ μ ∉ Set.range d := by
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Eigenspace/Matrix.lean]: I think you can instead prove a different lemma and then conclude this one almost for free (unless I'm being silly by not thinking hard enough).

Why not prove that `maxGenEigenspace = eigenspace` and then use `hasEigenvalue_toLin'_diagonal_iff`?

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean [hunk 4]
```diff
@@ -69,6 +69,50 @@ lemma hasEigenvalue_toLin'_diagonal_iff [NoZeroDivisors R] (d : n → R) {μ : R
...
+    simp only [mul_eq_zero, hi, pow_eq_zero_iff', ne_eq, false_or, sub_eq_zero] at hk
+    exact hk.1
+  · rintro ⟨i, rfl⟩
+    refine ⟨Pi.single i 1, (mem_maxGenEigenspace _ _ _).mpr ⟨1, ?_⟩, by simp⟩
+    ext j
+    simp [Pi.single_apply]
+
+@[simp]
+lemma iSup_maxGenEigenspace_diagonal_eq_top :
+    ⨆ μ, maxGenEigenspace (diagonal d).toLin' μ = ⊤ := by
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Eigenspace/Matrix.lean]: Likewise, you can prove that for `i : n`, `eigenspace (diagonal d) μ = span (Pi.basisFun R n '' (d ⁻¹' μ))`. Or else you can just use the result in the other comment and [hasEigenvector_toLin'_diagonal](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Eigenspace/Matrix.html#hasEigenvector_toLin'_diagonal) to prove that every element of `Pi.basisFun` is in the LHS.

File: Mathlib/Data/Matrix/Block.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Data/Matrix/Block.lean]: Thanks, I prefer `fromBlocks_diagonal_pow` for the reason you have outlined.

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/Eigenspace/Matrix.lean]: Thanks, you're right: I've reworked things along these lines.

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean (hunk 4 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/Eigenspace/Matrix.lean]: As above, I've incorporated this suggestion.

**Review by j-loreaux — COMMENTED** [review]
Ah, this is much nicer! Thanks a lot!

bors merge
